US08791303B2
To a solution of 3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone (200 mg, 0.86 mmol) in THF (3 ml) under N2 at −78° C. is added, dropwise, a 1.8 M solution of lithium diisopropylamine in tetrahydrofuran/heptane/ethylbenzene (0.53 ml, 0.95 mmol). The resulting solution is allowed to stir at −78° C. for 40 minutes. A solution of 4-fluorobenzyl bromide (0.16 ml, 1.3 mmol) in THF (1 ml) is then added in one portion, the reaction mixture is stirred at −78° C. for 30 minutes before being allowed to warm to room temperature over a period of 60 minutes. The reaction is quenched by the addition of saturated aqueous ammonium chloride (5 ml) and extracted with ethyl acetate (2×10 ml). The combined organics are purified by flash chromatography to give 5-(4-fluoro-benzyl)-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone (236 mg).

reactant | 3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone | 0.86 mmol, 200 mg | COC1=C(C(CC1)=O)C1=C(C=C(C=C1C)C)C | C15H18O2
reactant | lithium diisopropylamine | C(C)(C)NC(C)C.[Li]
reactant | tetrahydrofuran heptane ethylbenzene | 0.95 mmol, 0.53 ml | O1CCCC1.CCCCCCC.C(C)C1=CC=CC=C1
reactant | 4-fluorobenzyl bromide | 1.3 mmol, 0.16 ml | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | 5-(4-fluoro-benzyl)-3-methoxy-2-(2,4,6-trimethyl-phenyl)-cyclopent-2-enone | 236 mg | FC1=CC=C(CC2CC(=C(C2=O)C2=C(C=C(C=C2C)C)C)OC)C=C1 | C22H23FO2
